US04560691
A mixture containing 15 g of 5-(4-bromophenyl)-1,6-naphthyridin-2(1H)-one, 300 ml of dimethylformamide and 8.6 g of cuprous cyanide was refluxed with stirring for 96 hours, cooled and stripped to dryness using a rotary evaporator. To the residue was added 300 ml of concentrated aqueous ammonium hydroxide solution and 20 ml of glacial acidic acid. The resulting mixture was chilled in ice, next treated with 71 ml of (5.25% aqueous sodium hypochlorite solution, then stirred in an ice bath for 3 hours and allowed to stand at room temperature for 4 hours. The brown solid was collected, washed with water, dried, dissolved in 300 ml of boiling dimethylformamide, the hot solution treated with decolorizing charcoal and filtered, and the filtrate concentrated to dryness. The residue was recrystallized from dimethylformamide to produce 8.6 g of 5-(4-cyanophenyl)-1,6-naphthyridin-2(1H)-one, m.p. >300° C.

reactant | 5-(4-bromophenyl)-1,6-naphthyridin-2(1H)-one | 15 g | BrC1=CC=C(C=C1)C1=C2C=CC(NC2=CC=N1)=O | C14H9BrN2O
reactant | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 5-(4-cyanophenyl)-1,6-naphthyridin-2(1H)-one | 8.6 g | C(#N)C1=CC=C(C=C1)C1=C2C=CC(NC2=CC=N1)=O | C15H9N3O
